US04062862
7.4 g of m-trifluoromethylallylbenzene was added to chloroform solution containing perbenzoic acid prepared from 29.3 g of benzoyl peroxide and the mixture was allowed to stand at about 5° C for 7 days. After the completion of reaction, the resulting mixture was washed with sodium hydroxide solution, water, Mohr's salt solution, then water, and dried over anhydrous sodium sulfate. The solvent was evaporated and the concentrated was distilled under reduced pressure, there was obtained 6.2 g (yield 77%) of m-trifluoromethylallylbenzene oxide having a boiling point of 110° - 111° C/23 mmHg as colourless liquid.

reactant | m-trifluoromethylallylbenzene | 7.4 g | FC(F)(F)C=CCC=1C=CC=CC1 | C10H9F3
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 29.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | m-trifluoromethylallylbenzene oxide | 6.2 g, yield 77% | FC(F)(F)C=CCC=1C2C(C=CC1)O2 | C10H9F3O
